US04246268
A mixture of 25.5 g (0.1 mole) of 8-methyl-1-naphthyl 4-piperidyl ketone, 9 g (0.3 mole) of paraformaldehyde and 13.8 g (0.1 mole) of 4'-fluoroacetophenone in 100 ml of isopropyl alcohol containing 2 drops of concentrated hydrochloric acid is refluxed for 24 hours. The mixture is filtered and the filtrate concentrated to about 100 ml and cooled. The resulting precipitate is recrystallized from ethanol to give 2-[4-(8-methyl-1-naphthoyl)piperidyl]-1-(4-fluorophenyl)-1-propanone.

reactant | 8-methyl-1-naphthyl 4-piperidyl ketone | 0.1 mole, 25.5 g | N1CCC(CC1)C(=O)C1=CC=CC2=CC=CC(=C12)C | C17H19NO
reactant | paraformaldehyde | 0.3 mole, 9 g | C=O | CH2O
reactant | 4'-fluoroacetophenone | 0.1 mole, 13.8 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | hydrochloric acid | Cl | ClH
catalyst | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 2-[4-(8-methyl-1-naphthoyl)piperidyl]-1-(4-fluorophenyl)-1-propanone | CC=1C=CC=C2C=CC=C(C12)C(=O)C1CCN(CC1)C(C(=O)C1=CC=C(C=C1)F)C | C26H26FNO2
